* File: mirroradder.pex.netlist.pex
* Created: Fri Oct 18 20:06:42 2019
* Program "Calibre xRC"
* Version "v2013.4_26.18"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MIRRORADDER_1 1 2
c0 26 0 0.411761f
c1 25 0 0.11921f
c2 22 0 0.0832f
c3 19 0 0.11921f
c4 12 0 0.286594f
c5 7 0 0.334954f
c6 4 0 0.0832f
r7 25 44 0.0517815
r8 22 26 0.88
r9 19 41 0.0517815
r10 12 44 0.366154
r11 7 41 0.427692
r12 4 26 0.0499354
r13 4 25 0.68
r14 4 12 15.61
r15 3 29 0.589011
r16 3 22 0.0476789
r17 3 19 0.68
r18 3 7 7.805
r19 2 4 3.35
r20 1 29 3.54794
.ends

.subckt PM_MIRRORADDER_GROUND 1 2 3 4 5 6 43
c0 64 0 0.406428f
c1 63 0 0.03432f
c2 62 0 0.04134f
c3 61 0 0.03432f
c4 60 0 0.04134f
c5 59 0 0.03432f
c6 58 0 0.406428f
c7 53 0 0.528394f
c8 49 0 0.881496f
c9 46 0 0.533802f
c10 40 0 0.330296f
c11 37 0 0.310774f
c12 34 0 0.144708f
c13 28 0 0.310042f
c14 26 0 0.330296f
c15 23 0 0.310774f
c16 20 0 0.144708f
c17 17 0 0.578336f
c18 14 0 0.557982f
r19 51 64 0.0257252
r20 51 53 0.790769
r21 50 63 0.0184246
r22 49 64 0.0184246
r23 49 50 0.64
r24 44 63 0.0257252
r25 44 46 0.790769
r26 41 61 0.0184246
r27 41 43 0.09
r28 40 63 0.0184246
r29 40 43 0.15
r30 35 62 0.0467847
r31 35 37 0.430769
r32 34 62 0.0467847
r33 33 61 0.0257252
r34 33 34 0.24
r35 29 60 0.0004448
r36 29 31 0.134359
r37 28 62 0.0004448
r38 28 31 0.185641
r39 27 59 0.0184246
r40 26 61 0.0184246
r41 26 27 0.24
r42 21 60 0.0467847
r43 21 23 0.424615
r44 20 60 0.0467847
r45 19 59 0.0257252
r46 19 20 0.24
r47 18 58 0.0184246
r48 17 59 0.0184246
r49 17 18 0.42
r50 12 58 0.0257252
r51 12 14 0.787692
r52 6 68 0.552198
r53 6 53 7.805
r54 6 46 7.805
r55 6 37 7.805
r56 6 31 5.17667
r57 6 23 7.805
r58 6 14 7.805
r59 5 6 3.35
r60 4 6 4.20318
r61 3 68 3.54794
r62 2 6 4.30728
r63 1 6 4.16451
.ends

.subckt PM_MIRRORADDER_4 5 9 13 17 27 29
c0 58 0 0.208f
c1 54 0 0.14976f
c2 53 0 0.04992f
c3 52 0 0.614574f
c4 49 0 0.22864f
c5 44 0 0.02756f
c6 42 0 0.330036f
c7 39 0 0.407494f
c8 34 0 0.834778f
c9 31 0 0.144004f
c10 30 0 0.458944f
c11 26 0 0.08021f
c12 23 0 0.08021f
c13 22 0 0.11804f
c14 19 0 0.11804f
c15 17 0 0.453474f
c16 13 0 0.928286f
c17 9 0 0.512234f
c18 5 0 0.750823f
r19 52 54 0.0203971
r20 52 53 1.32
r21 46 53 0.051483
r22 45 49 0.0546154
r23 43 44 0.00880368
r24 42 45 0.051483
r25 42 43 0.44
r26 37 44 0.0338756
r27 37 39 0.503077
r28 32 44 0.0338756
r29 32 34 1.13846
r30 31 58 5.535
r31 31 54 0.0379487
r32 31 58 0.34
r33 30 49 3.69
r34 30 46 0.0546154
r35 30 49 0.226667
r36 30 39 7.765
r37 30 34 7.805
r38 29 30 2.745
r39 27 30 4.20318
r40 25 31 0.25641
r41 25 26 9.77325
r42 23 31 13.0769
r43 23 24 9.77325
r44 21 30 6.82692
r45 21 22 11.4997
r46 19 30 10.6731
r47 19 20 11.4997
r48 17 26 90
r49 13 24 270
r50 9 22 110
r51 5 20 210
.ends

.subckt PM_MIRRORADDER_VDD 1 7 8 9 10 11 47
c0 68 0 0.406428f
c1 67 0 0.03432f
c2 66 0 0.03432f
c3 65 0 0.05512f
c4 64 0 0.03432f
c5 63 0 0.05512f
c6 62 0 0.406428f
c7 57 0 0.649294f
c8 53 0 0.881496f
c9 50 0 0.654702f
c10 44 0 0.330296f
c11 43 0 0.168888f
c12 39 0 0.383314f
c13 35 0 0.330296f
c14 30 0 0.330296f
c15 29 0 0.168888f
c16 25 0 0.383314f
c17 21 0 0.578336f
c18 18 0 0.654702f
r19 55 68 0.0257252
r20 55 57 0.809231
r21 54 67 0.0184246
r22 53 68 0.0184246
r23 53 54 0.64
r24 48 67 0.0257252
r25 48 50 0.809231
r26 45 66 0.0184246
r27 45 47 0.09
r28 44 67 0.0184246
r29 44 47 0.15
r30 43 66 0.0257252
r31 42 65 0.0576508
r32 42 43 0.28
r33 37 65 0.0576508
r34 37 39 0.387692
r35 36 64 0.0184246
r36 35 66 0.0184246
r37 35 36 0.24
r38 31 63 0.00647627
r39 31 33 0.100769
r40 30 65 0.00647627
r41 30 33 0.139231
r42 29 64 0.0257252
r43 28 63 0.0576508
r44 28 29 0.28
r45 23 63 0.0576508
r46 23 25 0.386154
r47 22 62 0.0184246
r48 21 64 0.0184246
r49 21 22 0.42
r50 16 62 0.0257252
r51 16 18 0.82
r52 11 12 4.71069
r53 9 72 2.2875
r54 1 12 6.09114
r55 1 8 2.80961
r56 1 10 2.745
r57 1 72 0.422308
r58 1 7 2.75204
r59 1 57 7.765
r60 1 50 7.765
r61 1 39 7.765
r62 1 33 5.20333
r63 1 25 7.765
r64 1 18 7.765
.ends

.subckt PM_MIRRORADDER_COUT 1 3 26
c0 31 0 0.128952f
c1 28 0 1.48638f
c2 18 0 0.049205f
c3 15 0 0.049205f
c4 12 0 0.509622f
c5 7 0 0.592978f
r6 26 28 0.106667
r7 17 31 0.0266667
r8 17 18 0.0489097
r9 15 31 0.106667
r10 15 16 0.0489097
r11 12 18 0.652308
r12 7 16 0.729231
r13 4 28 0.04
r14 4 31 0.34
r15 4 12 7.765
r16 4 7 7.805
r17 3 4 0.854996
r18 1 4 2.89767
.ends

.subckt PM_MIRRORADDER_7 1 2
c0 26 0 0.187745f
c1 25 0 0.11921f
c2 22 0 0.0832f
c3 19 0 0.11921f
c4 12 0 0.334954f
c5 7 0 0.334954f
c6 4 0 0.0832f
r7 25 43 0.0517815
r8 22 26 0.4
r9 19 40 0.0517815
r10 12 43 0.430769
r11 7 40 0.430769
r12 4 26 0.0499354
r13 4 25 0.68
r14 4 12 7.805
r15 3 22 0.0478841
r16 3 19 0.68
r17 3 7 7.805
r18 2 4 4.30865
r19 1 3 4.20318
.ends

.subckt PM_MIRRORADDER_NS 4 8 14 16 21
c0 42 0 0.18704f
c1 35 0 0.02756f
c2 31 0 0.46209f
c3 28 0 0.334954f
c4 24 0 0.893954f
c5 18 0 0.479624f
c6 13 0 0.08021f
c7 10 0 0.08021f
c8 8 0 0.453474f
c9 4 0 0.983497f
r10 32 35 0.00880368
r11 31 42 0.0282383
r12 31 32 0.76
r13 26 35 0.0338756
r14 26 28 0.430769
r15 21 24 0.190769
r16 19 35 0.0338756
r17 19 24 1.20923
r18 18 60 6.21556
r19 18 53 2.37077
r20 18 42 5.535
r21 18 42 0.34
r22 18 28 7.765
r23 18 24 7.805
r24 16 60 4.71069
r25 14 53 1.12391
r26 12 18 0.25641
r27 12 13 9.77325
r28 10 18 13.0769
r29 10 11 9.77325
r30 8 13 90
r31 4 11 270
.ends

.subckt PM_MIRRORADDER_S 1 3 7
c0 19 0 0.169074f
c1 14 0 0.63593f
c2 10 0 0.600934f
r3 12 19 0.0338756
r4 12 14 0.910769
r5 7 10 0.230769
r6 5 19 0.0338756
r7 5 10 0.729231
r8 4 14 7.765
r9 4 10 7.805
r10 3 4 0.854996
r11 1 4 2.89767
.ends

.subckt PM_MIRRORADDER_12 3 4
c0 28 0 0.411761f
c1 27 0 0.11921f
c2 24 0 0.0832f
c3 21 0 0.11921f
c4 14 0 0.383314f
c5 9 0 0.383314f
c6 6 0 0.0832f
r7 27 45 0.0458328
r8 24 28 0.88
r9 21 42 0.0458328
r10 14 45 0.384615
r11 9 42 0.398462
r12 6 28 0.0499354
r13 6 27 0.68
r14 6 14 7.765
r15 5 24 0.0476789
r16 5 21 0.68
r17 5 9 7.765
r18 4 6 1.83
r19 3 5 2.77315
.ends

.subckt PM_MIRRORADDER_14 3 4
c0 28 0 0.187745f
c1 27 0 0.11921f
c2 24 0 0.0832f
c3 21 0 0.11921f
c4 14 0 0.383314f
c5 9 0 0.383314f
c6 6 0 0.0832f
r7 27 46 0.0458328
r8 24 28 0.4
r9 21 43 0.0458328
r10 14 46 0.369231
r11 9 43 0.369231
r12 6 28 0.0499354
r13 6 27 0.68
r14 6 14 7.765
r15 5 24 0.0478841
r16 5 21 0.68
r17 5 9 7.765
r18 4 6 2.78019
r19 3 5 2.745
.ends

.subckt PM_MIRRORADDER_B 6 10 16 20 26 30 34 38 64
c0 86 0 0.183282f
c1 84 0 0.334776f
c2 77 0 0.03328f
c3 75 0 0.208f
c4 72 0 0.728441f
c5 66 0 0.2496f
c6 60 0 0.208f
c7 55 0 0.488162f
c8 54 0 0.03328f
c9 53 0 0.066304f
c10 50 0 0.252036f
c11 49 0 0.12142f
c12 47 0 0.08021f
c13 44 0 0.08021f
c14 42 0 0.14404f
c15 38 0 1.01726f
c16 34 0 0.542797f
c17 30 0 1.04462f
c18 26 0 0.454657f
c19 20 0 0.541614f
c20 16 0 0.400364f
c21 13 0 0.329462f
c22 10 0 0.954117f
c23 8 0 0.63616f
c24 6 0 0.400364f
r25 69 84 0.0257692
r26 64 66 0.04
r27 55 57 0.0470638
r28 55 77 0.96
r29 54 72 0.0489097
r30 53 54 0.106667
r31 52 66 0.0598751
r32 52 72 1.56
r33 50 60 5.535
r34 50 57 0.0912821
r35 50 60 0.34
r36 49 86 3.71795
r37 49 75 5.535
r38 49 77 0.0458328
r39 49 53 0.00307692
r40 49 75 0.34
r41 48 84 2.7675
r42 48 66 0.015
r43 48 69 0.34
r44 46 50 0.25641
r45 46 47 9.77325
r46 44 50 13.0769
r47 44 45 9.77325
r48 40 42 12.5
r49 38 47 260
r50 34 45 130
r51 28 86 5.96818
r52 28 30 290
r53 24 86 5.96818
r54 24 26 110
r55 18 42 3.93537
r56 18 20 120
r57 13 40 0.587288
r58 8 48 16.8272
r59 8 13 50
r60 8 10 260
r61 4 48 12.8085
r62 4 16 91.9231
r63 4 6 91.9231
.ends

.subckt PM_MIRRORADDER_A 11 15 19 23 27 31 35 39 84
c0 97 0 0.03328f
c1 95 0 0.208f
c2 92 0 0.539902f
c3 91 0 0.03328f
c4 90 0 0.168232f
c5 87 0 0.109096f
c6 80 0 0.208f
c7 75 0 0.394822f
c8 74 0 0.05824f
c9 73 0 0.041344f
c10 69 0 0.208f
c11 66 0 0.03328f
c12 65 0 0.066304f
c13 62 0 0.296288f
c14 57 0 0.132752f
c15 55 0 0.0416f
c16 54 0 0.515936f
c17 53 0 0.219422f
c18 52 0 0.183282f
c19 51 0 0.19669f
c20 50 0 0.08021f
c21 47 0 0.08021f
c22 46 0 0.08528f
c23 44 0 0.12142f
c24 41 0 0.523656f
c25 39 0 1.01727f
c26 35 0 0.394714f
c27 31 0 1.16333f
c28 27 0 0.335954f
c29 23 0 1.19473f
c30 19 0 0.306574f
c31 15 0 0.659134f
c32 11 0 0.247814f
c33 7 0 0.04576f
c34 6 0 0.107864f
c35 5 0 0.06721f
r36 91 92 1.16
r37 87 126 0.0519866
r38 75 77 0.0470638
r39 75 97 0.76
r40 74 92 0.0889097
r41 73 74 0.0666667
r42 66 90 0.0489097
r43 65 91 0.0489097
r44 64 89 0.0149253
r45 64 90 0.36
r46 62 126 0.56
r47 55 62 0.0489097
r48 55 57 0.0892308
r49 54 80 5.535
r50 54 77 0.224615
r51 54 80 0.34
r52 53 95 5.535
r53 53 97 0.0458328
r54 53 73 0.00307692
r55 53 95 0.34
r56 52 69 5.535
r57 52 65 0.00307692
r58 52 66 0.10359
r59 52 69 0.34
r60 51 114 8.6194
r61 51 89 0.0804734
r62 51 84 0.0426035
r63 51 87 0.68
r64 51 57 5.535
r65 49 54 0.25641
r66 49 50 9.77325
r67 47 54 29.7436
r68 47 48 9.77325
r69 45 53 12.0513
r70 45 46 1.74191
r71 43 52 7.94872
r72 43 44 1.74191
r73 39 50 260
r74 35 48 80
r75 29 46 9.36679
r76 29 31 330
r77 25 46 9.36679
r78 25 27 70
r79 21 44 9.36679
r80 21 23 340
r81 17 44 9.36679
r82 17 19 60
r83 15 114 160
r84 11 42 40
r85 7 42 7.49833
r86 7 41 80
r87 6 51 1.15385
r88 5 41 6.11371
r89 5 6 10
.ends

.subckt PM_MIRRORADDER_CIN 6 10 14 18 22 26 62
c0 68 0 0.03328f
c1 66 0 0.208f
c2 63 0 0.316731f
c3 58 0 0.208f
c4 53 0 0.562834f
c5 52 0 0.05824f
c6 51 0 0.041344f
c7 47 0 0.2704f
c8 43 0 0.0416f
c9 40 0 0.252036f
c10 38 0 0.896317f
c11 37 0 0.08021f
c12 34 0 0.08021f
c13 33 0 0.04914f
c14 32 0 0.255562f
c15 31 0 0.08021f
c16 28 0 0.08021f
c17 26 0 0.899751f
c18 22 0 0.6615f
c19 18 0 0.89654f
c20 14 0 0.60274f
c21 10 0 0.692908f
c22 6 0 0.60274f
r23 53 55 0.0470638
r24 53 68 1.12
r25 52 63 0.0889097
r26 51 52 0.0666667
r27 50 62 0.0282383
r28 50 63 0.68
r29 43 62 0.0188255
r30 40 58 5.535
r31 40 55 0.0912821
r32 40 58 0.34
r33 39 66 5.535
r34 39 68 0.0458328
r35 39 51 0.00307692
r36 39 66 0.34
r37 38 47 3.69
r38 38 43 0.0841026
r39 38 47 0.226667
r40 36 40 0.25641
r41 36 37 9.77325
r42 34 40 13.0769
r43 34 35 9.77325
r44 32 39 1.28205
r45 32 33 1.74191
r46 30 38 11.1538
r47 30 31 9.77325
r48 28 38 12.1795
r49 28 29 9.77325
r50 26 37 220
r51 22 35 170
r52 16 33 9.36679
r53 16 18 240
r54 12 33 9.36679
r55 12 14 160
r56 10 31 170
r57 6 29 160
.ends

